US07790725B2
1-Fluoro-4-trifluoromethyl-2-nitrobenzene (5.1 g) was dissolved in tetrahydrofuran (100 mL) and diisopropylethylamine (5.5 ml) and 4-amino-1-tert-butoxycarbonylpiperidine (5.37 g) were added. The mixture was stirred at room temperature for 3 hr. The reaction solution was concentrated under reduced pressure, and water was added to the residue. The mixture was extracted with ethyl acetate and the extract solution was dried and concentrated under reduced pressure to give 1-tert-butoxycarbonyl-4-(4-trifluoromethyl-2-nitrophenyl)aminopiperidine.

reactant | 1-Fluoro-4-trifluoromethyl-2-nitrobenzene | 5.1 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | diisopropylethylamine | 5.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-amino-1-tert-butoxycarbonylpiperidine | 5.37 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonyl-4-(4-trifluoromethyl-2-nitrophenyl)aminopiperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C17H22F3N3O4
